US08877782B2
6-[3-(3-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-cyclopropylmethyl-nicotinamide
As described for example 98b, 6-[3-(3-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid (69 mg, 0.2 mmol) was converted, using cyclopropanemethylamine instead of 2,2,2-trifluoroethylamine, to the title compound (39 mg, 49%) which was obtained as a white solid. MS: m/e=398.0 [M+H]+.

reactant | 6-[3-(3-chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.2 mmol, 69 mg | ClC=1C=C(C=CC1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13ClN2O4
reactant | cyclopropanemethylamine | C1(CC1)CN | C4H9N
product | 6-[3-(3-Chloro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-cyclopropylmethyl-nicotinamide | 39 mg, 49% | ClC=1C=C(C=CC1)C1=NOC(=C1COC1=NC=C(C(=O)NCC2CC2)C=C1)C | C21H20ClN3O3
